US09126935B2
In a 100-mL RBF was combined 2-(4-fluorophenylamino)benzoic acid (2.5 g, 11 mmol), HATU (4.9 g, 13 mmol), 4-aminophenol (1.0 g, 9.2 mmol), N-ethyl-N-isopropylpropan-2-amine (3.2 mL, 18 mmol), and DCM (23 mL, 9.2 mmol). The reaction mixture was allowed to stir at RT overnight and was then absorbed onto a loading cartridge and passed through an 80 g silica gel column using hexanes: EtOAc as eluent. Fractions containing pure product were concentrated in vacuo to afford 2-(4-fluorophenylamino)-N-(4-hydroxyphenyl)benzamide as a brown oil. The oil was triturated with CH2Cl2 and hexanes, and the resulting solid was filtered through a 0.45 μM membrane filter and rinsed with hexanes. 2-(4-fluorophenylamino)-N-(4-hydroxyphenyl)benzamide was isolated as a off-white solid. Calcd for C19H15FN2O2: [M]+=322. Found: [M+H]+=323.

reactant | 2-(4-fluorophenylamino)benzoic acid | 11 mmol, 2.5 g | FC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C13H10FNO2
reactant | HATU | 13 mmol, 4.9 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-aminophenol | 9.2 mmol, 1.0 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | N-ethyl-N-isopropylpropan-2-amine | 18 mmol, 3.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DCM | 9.2 mmol, 23 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenylamino)-N-(4-hydroxyphenyl)benzamide | FC1=CC=C(C=C1)NC1=C(C(=O)NC2=CC=C(C=C2)O)C=CC=C1 | C19H15FN2O2
